US05985872
N-[6-[[(2-thienylmethyl)carbonyl]amino]-5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl]-L-phenylalanine, methyl ester;
N-[6-[[(2-thienylmethyl)carbonyl]amino]-5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl]-L-phenylalanine, pyrrolidineamide;

reactant | N-[6-[[(2-thienylmethyl)carbonyl]amino]-5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl]-L-phenylalanine | S1C(=CC=C1)CC(=O)NC=1C=CC2=C(C(OC(=N2)N[C@@H](CC2=CC=CC=C2)C(=O)O)=O)C1C | C24H21N3O5S
reactant | pyrrolidineamide | N1(CCCC1)C(=O)N | C5H10N2O
product | N-[6-[[(2-thienylmethyl)carbonyl]amino]-5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl]-L-phenylalanine, methyl ester | S1C(=CC=C1)CC(=O)NC=1C=CC2=C(C(OC(=N2)N[C@@H](CC2=CC=CC=C2)C(=O)OC)=O)C1C | C25H23N3O5S
